US06388117B2
Preparation of ethyl N-triethoxysilylpropylcarbamate
In a 10 L distillation autoclave, 3-aminopropyltriethoxysilane (3321 g, 15 mol) are brought to reaction with urea (928 g, 15.45 mol) and ethanol (3458 g, 75 mol) at 230° C. and pressure between 35 and 23 bar. The resultant ammonia is continuously stripped out by the ethanol vapors.

reactant | 3-aminopropyltriethoxysilane | 15 mol, 3321 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | urea | 15.45 mol, 928 g | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 75 mol, 3458 g | C(C)O | C2H6O
product | ethyl N-triethoxysilylpropylcarbamate | C(C)O[Si](OCC)(OCC)CCCNC(OCC)=O | C12H27NO5Si
